US04988698
A mixture of 1-(3-formyl-4-nitrophenyl)-4-(7methylimidazo[1,2-a]pyridine-2-carbonyl)piperazine (22.8 g), triethyl phosphonoacetate (15.6 g), sodium hydride (60% dispersion in mineral oil) (2.92 g) and N,N-dimethylformamide (250 ml) were stirred for 5 hours at ambient temperature. Ethyl acetate (250 ml) was added thereto and the resulting precipitates were collected and washed with ethyl acetate (100 ml) to give ethyl 3-[3-[4-(7-methylimidazo[1,2-a]pyridine-2-carbonyl)-1-piperazinyl]-6-nitrophenyl]acrylate (18.70 g).

reactant | 1-(3-formyl-4-nitrophenyl)-4-(7methylimidazo[1,2-a]pyridine-2-carbonyl)piperazine | 22.8 g | C(=O)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)C=1N=C2N(C=CC(=C2)C)C1 | C20H19N5O4
reactant | sodium hydride | 2.92 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | Ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[3-[4-(7-methylimidazo[1,2-a]pyridine-2-carbonyl)-1-piperazinyl]-6-nitrophenyl]acrylate | 18.70 g | CC1=CC=2N(C=C1)C=C(N2)C(=O)N2CCN(CC2)C=2C=C(C(=CC2)[N+](=O)[O-])C=CC(=O)OCC | C24H25N5O5
